US07071175B1
3-(6-Amino-pyridin-3-yl)-2-mercaptomethyl-3-phenyl-propionic acid
2-Acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl )-3-phenyl-propionic acid ethyl ester (58 mg, 0.125 mmol) was dissolved in conc. HCl (3.0 mL). The solution was heated to reflux for 130 min under argon. Concentration under reduced pressure gave the title compound as the hydrochloride salt (41 mg, 100%).

reactant | 2-Acetylsulfanylmethyl-3-(6-tert-butoxycarbonylamino-pyridin-3-yl )-3-phenyl-propionic acid ethyl ester | 0.125 mmol, 58 mg | C(C)OC(C(C(C1=CC=CC=C1)C=1C=NC(=CC1)NC(=O)OC(C)(C)C)CSC(C)=O)=O | C24H30N2O5S
solvent | HCl | 3.0 mL | Cl | ClH
product | 3-(6-Amino-pyridin-3-yl)-2-mercaptomethyl-3-phenyl-propionic acid | NC1=CC=C(C=N1)C(C(C(=O)O)CS)C1=CC=CC=C1 | C15H16N2O2S
